US06211216B1
Step 11: 3-Oxo-1-cyclohexenyl 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoate
1.04 g (3.0 mmol) of 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoic acid are introduced into 50 ml of dichloromethane together with 0.37 g (3.3 mmol) of cyclohexanedione and treated with 0.68 g (3.3 mmol) of dicyclohexylcarbodiimide. After stirring at room temperature for 16 hours, the precipitate is filtered off with suction and the filtrate is washed with water. After the removal of the solvent, 1.22 g (92% of theory) of 3-oxo-1-cyclohexenyl 2-chloro-3-(5-methoxymethylisoxazol-3 yl)-4-methyl-sulfonylbenzoate are obtained as a yellowish, partly crystalline oil.

reactant | 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoic acid | 3.0 mmol, 1.04 g | ClC1=C(C(=O)O)C=CC(=C1C1=NOC(=C1)COC)S(=O)(=O)C | C13H12ClNO6S
reactant | cyclohexanedione | 3.3 mmol, 0.37 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | dicyclohexylcarbodiimide | 3.3 mmol, 0.68 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Oxo-1-cyclohexenyl 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1C1=NOC(=C1)COC)S(=O)(=O)C | C19H18ClNO7S
